US03956404
A well stirred solution of benzoyl peroxide (24.2 g, 0.1 mole) cuprous chloride (0.2 g), cupric benzoate (1.5 g) and beta-pinene (14 g. 0.103 mole) in acetonitrile (150 ml) is heated on an oil bath at 65° ± 5° for 24 hours. The acetonitrile is removed by evaporation under vacuum (water pressure) at 40°. Excess beta-pinene is then recovered by continuing the evaporation at 75° (3 mm). The resulting blue-green slurry is dissolved in 100 ml ether and the solution filered to remove the cupric benzoate. The filtrate is washed with 2N HCl (2 × 30 ml), distilled water (3 × 30 ml) and then the ether removed by evaporation. This gives a straw colored oil which is dissolved in a solution of methanol (200 ml), water (50 ml), NaOH (10 g), and hydrolyzed by refluxing for 1 hour. Removal of methanol affords an aqueous suspension which is diluted with water (100 ml) and steam distilled. The distillate (1L) is extracted with ether (4 × 200 ml). This organic solution is dried over magnesium sulphate and evaporated to yield perillyl alcohol.

reactant | benzoyl peroxide | 0.1 mole, 24.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | beta-pinene | 0.103 mole, 14 g | CC1(C2CCC(=C)C1C2)C | C10H16
reactant | NaOH | 10 g | [OH-].[Na+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | perillyl alcohol | CC(=C)[C@H]1CCC(=CC1)CO | C10H16O
